US07211573B2
a) ((S)-9-Ethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester
In an analogous manner to that described in example 5d), the alkylation by iodoethane of (S)-(8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester [Chem.Pharm.Bull. 1986, 34(3), 1128–47] yielded (87% of theory) the title compound as a white solid, m.p.: 112° C., MS m/e (%): 307.1 (M+H+, 93).

reactant | iodoethane | ICC | C2H5I
reactant | (S)-(8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1COC2=C(NC1=O)C=CC=C2)=O | C14H18N2O4
product | ((S)-9-Ethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1COC2=C(N(C1=O)CC)C=CC=C2)=O | C16H22N2O4
